datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([C:10]#[N+:61]C2=CC=C(C#N)C=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10=20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:63]([NH:12][C:11](C1=CC2=C(C=CC=C2)C=C1)=[CH2:10])=[O:64]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C1=CC2=C(C=CC=C2)C=C1)=[NH+:12][C:63](C)=[O:64])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C21C=CC=CC13C54>>CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32].[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C21C=CC=CC13C54 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
CC1(C)[O:82][C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC1(C)[O:82][C:71](=[O:72])[C:10]([CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1 10=20
"CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]=[CH:11][NH:12]2.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]([C:20]([C:31]#[C:32][C:33]13C4C5C6C7C1[Cr-3:34]65743(C#[O+])(C#[O+])C#[O+])([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[CH:11]=[NH+:12]2 10,11=10,20;12=11,12"
C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1>>C1=CC=C(C2=CN(C[C@@H]3CCC[NH+:10]3[C:20]3(C4=CC=CC=C4)[S:31]CC[S:41]3)N=N2)C=C1 10=20
"C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C)=[O:64])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C=C(C)CC[C:11](C)=[CH2:10].[C:20](=[S:21])=[S:31]>>C=C(C)CC[C+:11](C)[CH2:10][C:20]([S-:21])=[S:31] 10,11=10,20;20,21=21"
"C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[Si+:11](C)[O:62][Si:63](C)(C)C.ClC[N+]12CC[N:21](CC1)CC2.[H:10][F:20] 10,11=10,20;20,21=21"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([N+:10]3=[C:61]4[N:62](CC[C@H]3C(C3=CC=CC=C3)C3=CC=CC=C3)C3=C(C=CC=C3)[S:72]4)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:61](=[O:62])(=[O:72])[N:10]=[C:11]2[O-:12].CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([N:10]2[C:11](=[O:12])C3=C(C=CC=C3)[S:61]2(=[O:62])=[O:72])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH:10]1CCCC[CH:63]=[CH:62][CH+:11]1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20"
"C1C[C:20](=[O:21])C1.C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH:11]1[H:10]>>C1C[C:20]([H:10])([O-:21])C1.C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH+:11]1 10,11=10,20;20,21=21"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].[CH2:10]=[N+:11]([O-:12])[O-:62]>>CC[O:33][C:31]([CH:20]([CH2:10][N+:11](=[O:12])[O-:62])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
